US05114939
N-[2-(4-Chlorophenyl)ethyl]-N-[8-fluoro-4 quinolinyl]acetamide
A mixture of 2.0 g of N-[2-(4-chlorophenyl)ethyl]-8-fluoro-4-quinolinamine and 5.0 mL of acetic anhydride was refluxed overnight. The mixture was then cooled, and solvents were removed by reducing pressure. The residue was washed with water and then dried. The resulting oil was passed over a silica gel column with ethyl acetate, and the front running spot was collected, producing 0.8 g of the title product as a thick oil.

reactant | N-[2-(4-chlorophenyl)ethyl]-8-fluoro-4-quinolinamine | 2.0 g | ClC1=CC=C(C=C1)CCNC1=CC=NC2=C(C=CC=C12)F | C17H14ClFN2
reactant | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(4-Chlorophenyl)ethyl]-N-[8-fluoro-4 quinolinyl]acetamide | 0.8 g | ClC1=CC=C(C=C1)CCN(C(C)=O)C1=CC=NC2=C(C=CC=C12)F | C19H16ClFN2O
